US07351857B2
To a mixture of 6-methoxy-2-tetralone (950 mg; 5.39 mmol), 2 M of ethylamine in THF (5.4 mL; 10.78 mmol) and acetic acid (648 mg; 10.78 mmol) in CH2Cl2 (5 mL) was added sodium triacetoxyborohydride (2.29 g; 10.78 mmol). The reaction mixture was stirred at RT for 3 h, then 1N solution of NaOH was added, and extracted with ether (3 times). The combined organic extracts were dried over Na2SO4, and the solvent was removed under reduced pressure to give a light-yellow oil. This oil was added to a solution of carbonic acid 1-chloro-ethyl ester 4-trifluoromethoxy-phenyl ester (1.23g; 4.31 mmol) in toluene(8 mL), and the reaction mixture was stirred for 1 h at RT followed by 1 h at 90° C. The reaction was allowed to cool to RT, diluted with Et2O and washed with 1 N of aqueous HCl and saturated NaHCO3. The organic extract was dried over Na2SO4, and the solvent was removed under reduced pressure. Flash chromatography of the residue with a gradient of hexane-CH2Cl2 gave 1.05 g (48%) of ethyl-(6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid 4-trifluoromethoxy-phenyl ester as a white solid.

reactant | 6-methoxy-2-tetralone | 5.39 mmol, 950 mg | COC=1C=C2CCC(CC2=CC1)=O | C11H12O2
reactant | ethylamine | 2 M | C(C)N | C2H7N
reactant | THF | 10.78 mmol, 5.4 mL | C1CCOC1 | C4H8O
reactant | acetic acid | 10.78 mmol, 648 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 10.78 mmol, 2.29 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | carbonic acid 1-chloro-ethyl ester 4-trifluoromethoxy-phenyl ester | 4.31 mmol, 1.23g | FC(OC1=CC=C(C=C1)OC(OC(C)Cl)=O)(F)F | C10H8ClF3O4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | CCOCC | C4H10O
product | ethyl-(6-methoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-carbamic acid 4-trifluoromethoxy-phenyl ester | 1.05 g, 48% | FC(OC1=CC=C(C=C1)OC(N(C1CC2=CC=C(C=C2CC1)OC)CC)=O)(F)F | C21H22F3NO4
